US08293743B2
A solution of 2-Amino-4-methyl benzothiazole (25.0 g, 152 mmol) in 456 mL of dry THF was treated with Et3N (42 mL, 300 mmol), (Boc)2O (40.0 g, 183 mmol) and DMAP (3.7 g, 30 mmol) at 20° C. and stirred at 30° C. for 12 h. The resulting solution was concentrated in vacuo, diluted with EtOAc (200 mL) and filtered through a glass filter (Celite) washing with EtOAc (200 mL). The filtrate was washed with NaHCO3 (saturated aqueous solution, 100 mL) and NaCl (saturated aqueous solution, 100 mL), dried over MgSO4 and concentrated in vacuo. The residue was filtered through a silica gel plug (flash column chromatography) eluting with toluene:Et2O=15:1 to 8:1 to afford 2-Boc-amino-4-methyl benzothiazole as a colorless oil (41.4 g, quant.) Rf=0.48 (toluene:Et2O=10:1); 1H NMR (400 MHz, CDCl3) δ 9.75 (1H, br s), 7.61 (1H, d, J=7.8 Hz), 7.19 (3H, m), 2.64 (3H, s), 1.47 (9H, s).

reactant | 2-Amino-4-methyl benzothiazole | 152 mmol, 25.0 g | NC=1SC2=C(N1)C(=CC=C2)C | C8H8N2S
reactant | Et3N | 300 mmol, 42 mL | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 183 mmol, 40.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 456 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 30 mmol, 3.7 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-Boc-amino-4-methyl benzothiazole | C(=O)(OC(C)(C)C)C=1SC2=C(N1)C(=C(C=C2)N)C | C13H16N2O2S
